US07683181B2
1b) 4-[1-(Acetylamino-methyl)-cyclohexyl]-benzenesulfonyl chloride
4.5 g of N-(1-Phenyl-cyclohexylmethyl)-acetamide were dissolved in 80 ml of methylenechloride and 3.8 ml of chlorosulfonic acid were added. The reaction mixture was stirred at 50° C. for 10 hours and was poured on ice water. The organic layer was separated, washed twice with 50 ml brine and then dried over MgSO4. The solvent was removed in vacuo to obtain 1.5 g of a light yellow oil.

reactant | N-(1-Phenyl-cyclohexylmethyl)-acetamide | 4.5 g | C1(=CC=CC=C1)C1(CCCCC1)CNC(C)=O | C15H21NO
reactant | chlorosulfonic acid | 3.8 ml | ClS(=O)(=O)O | ClHO3S
solvent | methylenechloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 4-[1-(Acetylamino-methyl)-cyclohexyl]-benzenesulfonyl chloride | 1.5 g | C(C)(=O)NCC1(CCCCC1)C1=CC=C(C=C1)S(=O)(=O)Cl | C15H20ClNO3S
